US07601722B2
Cesium carbonate (0.29 g, 0.9 mmol) was added to a solution of 1-(4-chlorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (Made analogously as in general procedure I, 0.25 g, 0.9 mmol), and 1,4-dibromobutane (0.42 mL, 3.6 mmol) in dry DMF (5.0 mL) under nitrogen. After 3 h, the reaction mixture was diluted with diethyl ether and washed with water and brine. The ether layer was dried over magnesium sulfate, filtered and concentrated in vacuo to give 0.41 g of crude product. The crude product was pre-adsorbed onto Celite and purified via Isco chromatography (Redisep, silica, gradient 5-30% ethyl acetate in hexane) to afford 0.22 g (59%) of 1-(4-bromobutyl)-3-(4-chlorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide.

reactant | Cesium carbonate | 0.9 mmol, 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(4-chlorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | ClC1=CC=C(C=C1)N1S(NC2=C1C=CC=C2)(=O)=O | C12H9ClN2O2S
reactant | 1,4-dibromobutane | 3.6 mmol, 0.42 mL | BrCCCCBr | C4H8Br2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-bromobutyl)-3-(4-chlorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.22 g, 59% | BrCCCCN1S(N(C2=C1C=CC=C2)C2=CC=C(C=C2)Cl)(=O)=O | C16H16BrClN2O2S
